US04254135
Trans-4-amino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide.
A solution of 44 g of trans-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methyl-4-nitrobenzamide in 600 ml of absolute ethanol was treated with a catalytic amount of platinum oxide and shaken in the Parr apparatus under hydrogen for one hour. The suspension was filtered and the filtrate evaporated under vacuum. The residue crystallized from a benzene-cyclohexane mixture and was recrystallized from toluene. The yield was 39.6 g (99%); m.p. 180.0°-182.5° C.

reactant | trans-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methyl-4-nitrobenzamide | 44 g | C1(CCCCC1)N1C[C@H]([C@@H](C1)O)N(C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C18H25N3O4
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | platinum oxide | [Pt]=O
product | Trans-4-amino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide | NC1=CC=C(C(=O)N(C)[C@@H]2CN(C[C@H]2O)C2CCCCC2)C=C1 | C18H27N3O2
